US07598232B2
According to the Scheme 1 below, the benzyl thioacetic acid C is formed by the reaction of sodium thioglycollate and a benzyl halide B. The benzyl thioacetic acid C is then oxidized with 30% hydrogen peroxide to give a corresponding benzylsulfonyl acetic acid D. Condensation of the benzylsulfonyl acetic acid D with an aromatic aldehyde E via a Knoevenagel reaction in the presence of benzylamine and glacial acetic acid yields the desired (E)-styryl-3-nitrobenzylsulfone F. The (E)-styryl-3-nitrobenzylsulfone F is then reduced via either palladium catalyzed hydrogenation with hydrazine hydrate as the hydrogen source or with Na2S2O4, and subsequently alkylated to give the desired (E)-styryl-3-aminobenzylsulfone IIIa.

reactant | (E)-styryl-3-nitrobenzylsulfone | C(=C\C1=CC=CC=C1)/C(C1=CC(=CC=C1)[N+](=O)[O-])S(=O)(=O)C(C1=CC(=CC=C1)[N+](=O)[O-])\C=C\C1=CC=CC=C1 | C30H24N2O6S
reactant | hydrazine hydrate | O.NN
reactant | hydrogen | [H][H] | H2
reactant | Na2S2O4 | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
catalyst | palladium | [Pd] | Pd
product | (E)-styryl-3-aminobenzylsulfone | C(=C\C1=CC=CC=C1)/C(C1=CC(=CC=C1)N)S(=O)(=O)C(C1=CC(=CC=C1)N)\C=C\C1=CC=CC=C1 | C30H28N2O2S
